US04886816
Methyl (2,2-difluoro-1,3-benzodioxol-5-yl)-methyleneacetoacetate
50 mmol of 5-butyliminomethyl)-2,2-difluoro-1,3-benzodioxole and 50 mmol of methyl acetoacetate are added simultaneously to 80 ml of acetic anhydride and, after brief warming, the mixture is left to stand at room temperature for 24 hours. It is then hydrolyzed with 1 l of ice-water and the oil which has separated out is separated off, diluted with a little methylene chloride, dried and subsequently used as the crude product.

reactant | 2,2-difluoro-1,3-benzodioxole | FC1(OC2=C(O1)C=CC=C2)F | C7H4F2O2
reactant | methyl acetoacetate | 50 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Methyl (2,2-difluoro-1,3-benzodioxol-5-yl)-methyleneacetoacetate | FC1(OC2=C(O1)C=CC(=C2)C(C(CC(=O)OC)=O)=C)F | C13H10F2O5
